US04077982
2-Chloromethyl-5-(2-chlorobenzyloxy)-5-methyl-1,3-dioxane
By the method of Example 39, 2-(2-chlorobenzyloxy)-2-methyl-1,3-propanediol was reacted with chloroacetaldehyde diethyl acetal to yield a mixture of isomers which were separated by column chromatography. The cis-isomer was a solid, m.p. 53°-54° C. The trans-isomer was a liquid, b.p. 104°-107° C/0.02 mm Hg; nD25 1.5280.

reactant | 2-(2-chlorobenzyloxy)-2-methyl-1,3-propanediol | ClC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15ClO3
reactant | chloroacetaldehyde diethyl acetal | C(C)OC(CCl)OCC | C6H13ClO2
product | 2-Chloromethyl-5-(2-chlorobenzyloxy)-5-methyl-1,3-dioxane | ClCC1OCC(CO1)(C)OCC1=C(C=CC=C1)Cl | C13H16Cl2O3
